US05478842
Using an analogous procedure to that described in Example 6, 5-mercapto-1-methylindolin-2-one was reacted with (2S,4R)-4-hydroxy-4(3-iodophenyl)-2-methyltetrahydropyran to give (2S,4R)-4-hydroxy-2-methyl-4-[3-(1-methyl-2-oxoindolin-5-ylthio)phenyl]tetrahydropyran in 55% yield, m.p. 110°-111° C. (recrystallised from a mixture of diethyl ether and ethyl acetate);

reactant | 5-mercapto-1-methylindolin-2-one | SC=1C=C2CC(N(C2=CC1)C)=O | C9H9NOS
reactant | (2S,4R)-4-hydroxy-4(3-iodophenyl)-2-methyltetrahydropyran | O[C@]1(C[C@@H](OCC1)C)C1=CC(=CC=C1)I | C12H15IO2
product | (2S,4R)-4-hydroxy-2-methyl-4-[3-(1-methyl-2-oxoindolin-5-ylthio)phenyl]tetrahydropyran | 55% yield | O[C@]1(C[C@@H](OCC1)C)C1=CC(=CC=C1)SC=1C=C2CC(N(C2=CC1)C)=O | C21H23NO3S
